US08431607B2
(S)-1-(4-(4-chlorophenoxy)phenyl)-5-(3-(2-hydroxyethoxy)phenyl)imidazolidin-2-one
To a solution of (S)-1-(4-(4-chlorophenoxy)phenyl)-5-(3-hydroxyphenyl)-imidazolidin-2-one (26 mg, 0.068 mmol) in acetonitrile (2 mL) is added Cs2CO3 (50 mg, 0.15 mmol) followed by 2-(2-bromoethoxy)tetrahydro-2H-pyran (30 mg, 0.14 mmol). The resulting mixture is stirred at room temperature for 24 h and is then treated with water (5 mL) and extracted with EtOAc (3×3 mL). The combined organic layers are concentrated and the residue is dissolved in MeOH (1 mL). To the MeOH solution is added catalytic amount of pTSA (˜1 mg). The resulting mixture is stirred at room temperature for 1 h and is then treated with sat. NaHCO3 solution (3 mL). After extracting with EtOAc (3×3 mL), the combined organic layers are concentrated and purified by preparative thin layer chromatography (silica gel, 85% EtOAc/hexane) to provide the title compound as a white solid. 1H NMR (CDCl3, 400 MHz) δ 7.33 (d, J=9.2 Hz, 2H), 7.22-7.27 (m, 3H), 6.89 (d, J=7.6 Hz, 1H), 6.81-6.88 (m, 6H), 5.23 (dd, J=8.8, 6.0 Hz, 1H), 4.90 (br s, 1H), 3.92-4.08 (m, 5H), 2.34 (dd, J=8.8, 6.4 Hz, 1H), 2.03 (t, J=5.6 Hz, 1H); HPLC-MS calculated for C23H21ClN2O4 (M+H+) 425.1, found 425.1.

reactant | (S)-1-(4-(4-chlorophenoxy)phenyl)-5-(3-hydroxyphenyl)-imidazolidin-2-one | 0.068 mmol, 26 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(NC[C@@H]2C2=CC(=CC=C2)O)=O)C=C1 | C21H17ClN2O3
reactant | Cs2CO3 | 0.15 mmol, 50 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 0.14 mmol, 30 mg | BrCCOC1OCCCC1 | C7H13BrO2
reactant | water | 5 mL | O | H2O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (S)-1-(4-(4-chlorophenoxy)phenyl)-5-(3-(2-hydroxyethoxy)phenyl)imidazolidin-2-one | ClC1=CC=C(OC2=CC=C(C=C2)N2C(NC[C@@H]2C2=CC(=CC=C2)OCCO)=O)C=C1 | C23H21ClN2O4
